US05162336
8.73 g di-t-butyl dicarbonate and 8.65 g (3R)-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylic acid are dissolved together in 150 ml tetrahydrofuran and 5.53 g potassium carbonate is added along with 150 ml of water. The mixture is stirred vigorously overnight. The mixture is evaporated in vacuo to remove most of the THF and the aqueous residue is acidified with 1N hydrochloric acid. This is extracted with ethyl acetate and the organic solution washed with brine, dried over sodium sulfate, filtered, and evaporated. The residue is evaporated from acetonitrile to give (3R)-2-tert-butoxycarbonyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylic acid.

reactant | di-t-butyl dicarbonate | 8.73 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (3R)-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylic acid | 8.65 g | C1N[C@H](CC2=C1NC1=CC=CC=C21)C(=O)O | C12H12N2O2
reactant | potassium carbonate | 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 150 ml | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | (3R)-2-tert-butoxycarbonyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylic acid | C(C)(C)(C)OC(=O)N1CC=2NC3=CC=CC=C3C2C[C@@H]1C(=O)O | C17H20N2O4
